US04288435
(4) 2-[N-(2-Hydroxy-5-chlorophenyl)carbamoylmethoxyimino]-2-(2-formamidothiazol-4-yl)acetic acid (syn isomer)
A mixture of 2-(2-formamidothiazol-4-yl)glyoxylic acid (2.79 g.) and N-(2-hydroxy-5-chlorophenyl)-2-(aminooxy)acetamide (3.32 g.) in ethanol (30 ml.) was stirred for 5 hours at room temperature. The reaction mixture was evaporated to dryness and to the residue was added a mixture of ethyl acetate, water and 10% hydrochloric acid followed by stirring. The ethyl acetate layer was separated, washed with diluted hydrochloric acid and an aqueous solution of sodium chloride, dried over magnesium sulfate, concentrated to a small volume and allowed to stand under ice-cooling. The resulting precipitates were collected by filtration, washed with ethyl acetate and then dried under reduced pressure to give the title compound (4.59 g.).

reactant | 2-(2-formamidothiazol-4-yl)glyoxylic acid | 2.79 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=O | C6H4N2O4S
reactant | N-(2-hydroxy-5-chlorophenyl)-2-(aminooxy)acetamide | 3.32 g | OC1=C(C=C(C=C1)Cl)NC(CON)=O | C8H9ClN2O3
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-[N-(2-Hydroxy-5-chlorophenyl)carbamoylmethoxyimino]-2-(2-formamidothiazol-4-yl)acetic acid | 4.59 g | OC1=C(C=C(C=C1)Cl)NC(=O)CON=C(C(=O)O)C=1N=C(SC1)NC=O | C14H11ClN4O6S
